US07115646B2
Part G. 4-Iodo-benzoic acid methyl ester (1.42 g, mmol) and (1H-imidazol-2-ylmethyl)-dimethyl-amine (0.68 g, mmol) were stirred in DMSO (3.5 mL) under N2. K2CO3 (1.52 g, mmol) was added followed by the addition of CuI (0.52 g, mmol) and 1,10-phenanthroline (0.46 g, mmol). The reaction mixture was heated at 120–125° C. for 2 h. After cooling, EtOAc was added. It was washed with dil. NH3H2O, H2O, brine, dried over MgSO4, filtered, and concentrated to dryness. The residue was purified by FCC (silica gel, CH2Cl2:EtOAc=1:0 to 0:1, then 10% MeOH) to give pure 4-(2-dimethylaminomethyl-imidazol-1-yl)-benzoic acid methyl ester (0.56 g, yield 40%). 1H NMR (CDCl3) δ 7.84 (d, J=8.4 Hz, 2H), 7.40 (d, J=8.4 Hz, 2H), 6.87 (d, J=0.9 Hz, 1H), 6.80 (d, J=0.9 Hz, 1H), 3.65 (s, 3H), 3.10 (s, 2H), 1.96 (s, 6H) ppm.

reactant | 4-Iodo-benzoic acid methyl ester | 1.42 g | COC(C1=CC=C(C=C1)I)=O | C8H7IO2
reactant | (1H-imidazol-2-ylmethyl)-dimethyl-amine | 0.68 g | N1C(=NC=C1)CN(C)C | C6H11N3
reactant | K2CO3 | 1.52 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,10-phenanthroline | 0.46 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | DMSO | 3.5 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.52 g | [Cu]I
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-dimethylaminomethyl-imidazol-1-yl)-benzoic acid methyl ester | 0.56 g, yield 40% | COC(C1=CC=C(C=C1)N1C(=NC=C1)CN(C)C)=O | C14H17N3O2
